US05316755
Diethyl 2-(2,4,6-Triiodophenoxy)-1,3-propanedioate
A stirred mixture of 70.8 g (0.15 mol) of 2,4,6-triiodophenol, 39.0 g (0.15 mol) of diethyl bromomalonate and 20.7 g (0.15 mol) of milled anhydrous potassium carbonate in 200 ml of dry dimethylformamide was heated at 100° C. under argon for 5 hours. The mixture was cooled and concentrated in vacuo. The resulting residue was combined with 300 ml of ice-cold water and the oily product was extracted with ethyl acetate (1×300 ml), 3×100 ml). The combined ethyl acetate extracts were dried (MgSO4) and concentrated in vacuo to a dark oil. The oil was purified by chromatography (eluted by hexanes to 20% diethyl ether in hexanes) to yield 60.2 g (64%) of product as a light cream-colored solid.

reactant | 2,4,6-triiodophenol | 0.15 mol, 70.8 g | IC1=C(C(=CC(=C1)I)I)O | C6H3I3O
reactant | diethyl bromomalonate | 0.15 mol, 39.0 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | potassium carbonate | 0.15 mol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | Diethyl 2-(2,4,6-Triiodophenoxy)-1,3-propanedioate | 60.2 g, 64% | IC1=C(OC(C(=O)OCC)C(=O)OCC)C(=CC(=C1)I)I | C13H13I3O5
